US06875895B2
Synthesis of 1,4-bis[2-(4-bromophenyl)-2-phenylethenyl]-2,5-diethoxybenzene
Under an inert atmosphere, 4-bromobenzophenone (2.611 g, 10 mmol), and 1,4-bis(diethylphosphonomethyl)-2,5-diethoxybenzene (1.912 g, 4.10 mmol) are dissolved in tetrahydrofuran (30 g). At room temperature, tetrahydrofuran (10.92 g) solution of tert-butoxy potassium (1.380 g, 12.30 mmol) is added dropwise for 5 minutes, and successively stirred for 3.5 hours. The reaction mixture is charged into water (200 ml) and neutralized with 5% sulfuric acid. After neutralization, a hydrophobic solvent is added and the organic layer is partitioned. The organic layer is washed with water and dried over anhydrous sodium sulfate. The solvent is distilled off under reduced pressure, and the resultant raw product is purified by silica gel chromatography or recrystallization to give a desired product.

reactant | 4-bromobenzophenone | 10 mmol, 2.611 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | 1,4-bis(diethylphosphonomethyl)-2,5-diethoxybenzene | 4.10 mmol, 1.912 g | C(C)OP(=O)(OCC)CC1=C(C=C(C(=C1)OCC)CP(=O)(OCC)OCC)OCC | C20H36O8P2
reactant | tert-butoxy potassium | 12.30 mmol, 1.380 g | C(C)(C)(C)O[K]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.92 g | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 1,4-bis[2-(4-bromophenyl)-2-phenylethenyl]-2,5-diethoxybenzene | BrC1=CC=C(C=C1)C(=CC1=C(C=C(C(=C1)OCC)C=C(C1=CC=C(C=C1)Br)C1=CC=CC=C1)OCC)C1=CC=CC=C1 | C38H32Br2O2
